US07141596B2
Step 1. Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoate
(2S)-2-[(tert-Butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoic acid (45.0 g, 145 mmol) was dissolved in DMF (425 mL) and treated with sodium bicarbonate (24.4 g, 290 mmol) followed by methyl iodide (36.1 mL, 580 mmol). The solution stirred at rt for 16 h. The solution was diluted with ethyl acetate (500 mL), washed with water (500 mL), saturated aqueous sodium bicarbonate solution (300 mL), aqueous hydrochloric acid solution (1.0 N, 500 mL), and the organic phase dried over sodium sulfate. The solvent was removed in vacuo to afford product as a slightly yellow solid (46.2 g, 98%). 1H NMR (400 MHz, CDCl3): δ 8.16 (d, J=8.6 Hz, 2H), 7.46 (d, J=8.6 Hz, 2H), 4.45–4.41 (m, 1H), 3.71 (s, 3H), 3.30–3.26 (m, 1H), 3.05–2.99 (m, 1H), 1.36 (s, 9H); LCMS found for C15H20N2O6Na (M+Na)+: m/z=347.

reactant | (2S)-2-[(tert-Butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoic acid | 145 mmol, 45.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
reactant | sodium bicarbonate | 290 mmol, 24.4 g | C([O-])(O)=O.[Na+]
reactant | methyl iodide | 580 mmol, 36.1 mL | CI | CH3I
solvent | DMF | 425 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoate | 46.2 g, 98% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N2O6
